US05030736
5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran
Sodium hydride (60% in oil, 1.17 g, 29.3 mmol) was added to a solution of 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran (7.0 g, 26.6 mmol) in N,N-dimethylformamide (115 mL) at 0° C. The resultant mixture was stirred at rt for 2 h. 2-Pyrrolidinone (6.1 mL, 79.8 mmol) was added to the solution followed by sodium hydride (60% in oil, 1.17 g, 29.3 mmol) and stirring was continued at rt for 4 days. The solution was poured into ice water (500 mL) and extracted with dichloromethane. The dichloromethane solution was washed with water (5×) and dried over sodium sulfate. The solvent was evaporated in vacuo and the resultant solid was triturated in diethyl ether to give the product, 3.91 g (55%), as a colorless solid: mp 154°-155° C.; IR (KBr): 3263, 1665 and 1562 cm-1 ; MS: m/z 268 MH+); 1H NMR (CDCl3): δ1.30(s, 3H), 1.50(s, 3H), 2.07(m, 2H), 2.52(m, 2H), 3.00(d, J=5.5 Hz, 1H, exchanges with D2O), 3.35(m, 2H), 3.78(dd, J=5.5 Hz, J=9.0 Hz 1H, simplifies to d, J=9.0 Hz, with D2O), 5.28(d, J=9.0 Hz, 1H), 6.57(d, 5.4 Hz, 1H) and 7.11(d, J=5.4 Hz, 1H).

reactant | Sodium hydride | 29.3 mmol, 1.17 g | [H-].[Na+]
reactant | 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran | 26.6 mmol, 7.0 g | BrC1C(C2=C(OC1(C)C)C=CS2)O | C9H11BrO2S
reactant | 2-Pyrrolidinone | 79.8 mmol, 6.1 mL | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 29.3 mmol, 1.17 g | [H-].[Na+]
reactant | KBr | [K+].[Br-]
reactant | N,N-dimethylformamide | 115 mL | CN(C=O)C | C3H7NO
product | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C13H17NO3S
